US08314147B2
Intermediate 34: Ethyl[4-({[6-chloro-2-fluoro-3-(methyloxy)phenyl]carbonyl}amino)phenyl]acetate
Oxalyl chloride (193 μl, 2.21 mmol) was added dropwise to a solution of 6-chloro-2-fluoro-3-(methyloxy)benzoic acid (300 mg, 1.47 mmol) in dichloromethane (5 ml). To this was added dimethylformamide (1 drop) and the reaction was stirred at room temperature for 3 hrs. The solvent was evaporated to afford a yellow semi-solid. This semi-solid was dissolved in dichloromethane (5 ml) and ethyl (4-aminophenyl)acetate (316 mg, 1.76 mmol) followed by triethylamine (287 μl, 2.06 mmol) were added. The resultant solution was stirred at room temperature overnight. The reaction was diluted with water and the phases separated. The organic layer was dried (Na2SO4), the solvent evaporated and the residue purified by flash chromatography (Biotage SP4, 25+M silica column, 0→50% ethyl acetate/petrol) to afford the title as a yellow semi-solid (506 mg, 94%). MS (ES+) m/z 366 [M+H+] (C18H1735ClFNO4).

reactant | Oxalyl chloride | 2.21 mmol, 193 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-chloro-2-fluoro-3-(methyloxy)benzoic acid | 1.47 mmol, 300 mg | ClC1=CC=C(C(=C1C(=O)O)F)OC | C8H6ClFO3
reactant | ethyl (4-aminophenyl)acetate | 1.76 mmol, 316 mg | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | triethylamine | 2.06 mmol, 287 μl | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | Ethyl[4-({[6-chloro-2-fluoro-3-(methyloxy)phenyl]carbonyl}amino)phenyl]acetate | 506 mg, 94% | C(C)OC(CC1=CC=C(C=C1)NC(=O)C1=C(C(=CC=C1Cl)OC)F)=O | C18H17ClFNO4
